Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Valsartan / doxazosin
 
Attending: ___.
 
Chief Complaint:
hypoglycemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with history of DM2 (A1C 6.9), CKD, presented to 
the ED for unresponsiveness with FSBS of 40.  
Pt stated that recently her appetite has not been as strong as 
before, and she had been experiencing more episodes of 
hypoglycemia. She typically self treats with orange juice. The 
day prior to admission, pt had insulin at 11pm, went to bed, and 
woke up at 2:30 feeling fatigue and jittery, concerning for 
hypoglycemia. She ran out of orange juice and called her 
daughter. When her daughter checked on her, pt was found 
nonresponsive. EMS was called, and pt was found to have FSBS of 
40. Pt was given 1 amp of dextrose with some improvement. 
Typically, pt takes glipizide 5 mg in AM and NPH 12 units at bed 
time. She otherwise denies F/C, chest pain, SOB, N/V/D, dysuria. 
She does have constipation and hemorrhoids issues.  
In the ED, initial VS were: 97.1 67 168/77 15 94% on RA. Labs 
were notable for fs of 40 and a creatinine of 2.9, up from a 
baseline of 2.1. CXR noted new interstitial opacities most 
consistent with edema. UA was concerning for infection so she 
was given ceftriaxone. Gave 500cc of NS, then started on D5NS @ 
75ml/hr. Admission was requested given unwell appearance and 
diabetic regimen. Most recent vitals prior to admission were 
98.4 60 167/70 18 98% on RA.  

 
Past Medical History:
- PERCUTANEOUS CORONARY INTERVENTIONS:  ___ in ___ RCA 
stent placed
- PACING/ICD:  ___ in ___  DDDR pacer placed for 
bradycardia, last check ___:  DDDR mode with a base rate of 
65, a rest rate of 60, a maximum track rate of 110 and an upper 
sensor rate of 105 beats per minute.  The mode switch function 
is ON for atrial rates greater than 180 beats per minute.
- T2DM
- arthritis
- cholelithiasis
- chronic abdominal pain
- diverticulitis
- hypertension
- hyperlipidemia
- osteomalacia
- peripheral edema
- peripheral neuropathy
- peripheral vascular disease
- PPD positive ___
- acute kidney injury  
- spinal stenosis   
- dysphagia 
- chronic kidney disease (baseline Cr 1.6-1.8)
- Recurrent UTIs
- Chronic oral pain ___ poor-fitting dentures
 
Social History:
___
Family History:
Mother died of stroke; father died of MI at ___ yo.  One brother 
died from lung cancer.  Her daugther has colon cancer.  
 
Physical Exam:
ADMISSION:

VS - 98.0 65 182/80 18 96% on RA  
GENERAL - elderly female in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, JVD ~ 8 cm, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, nl S1-S2, ___ systolic ejection 
murmur @ LUSB, +S2, radiating to carotids  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3  

DISCHARGE:

VS: 98.4 160/71  18  97%RA
GENERAL - elderly female in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, JVD ~ 8 cm, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, nl S1-S2, ___ systolic ejection 
murmur @ LUSB, +S2, radiating to carotids  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3  

 
Pertinent Results:
LABS:

___ 06:05AM BLOOD WBC-5.5 RBC-3.16* Hgb-9.7* Hct-29.7* 
MCV-94 MCH-30.6 MCHC-32.6 RDW-14.2 Plt ___
___ 03:15PM BLOOD Glucose-141* UreaN-37* Creat-2.6* Na-138 
K-5.0 Cl-106 HCO3-25 AnGap-12
___ 04:25PM BLOOD Glucose-80 UreaN-41* Creat-2.9* Na-140 
K-5.0 Cl-107 HCO3-23 AnGap-15
___ 04:25PM BLOOD cTropnT-0.02*
___ 03:15PM BLOOD Calcium-8.4 Phos-3.3 Mg-2.6
___ 04:25PM BLOOD Lactate-1.3

==========================================================
IMAGING/OTHER STUDIES:

CXR ___: FINDINGS:  There is cardiomegaly as well as a 
pacemaker with leads terminating in appropriate position.  There 
are new interstitial opacities consistent with edema.  No focal 
opacities concerning for infection.  No pleural effusion or 
pneumothorax. 

 
Brief Hospital Course:
___ yo female with history of DM2 (A1C 6.9), CKD, HTN, HL and 
multiple prior UTI's who presented to the emergency department 
after an episode of unresponsiveness at home, found to have 
hypoglycemia and acute on chronic renal failure.  

# Hypoglycemia: Likely secondary to poor oral intake and insulin 
combined with a sulfonylurea. Given patient's recurrent episodes 
of hypoglycemia, her glyburide was stopped during this 
admission. She was continued on her previous regimen of 12u 
glargine qHS. She will have close followup with the ___ 
___. 
 
# Acute on chronic renal failure: This was almost certainly 
prerenal azotemia in the setting of decreased PO intake. Cr 
returned to baseline with IV fluids.  
  
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
TRANSITIONAL ISSUES:

#Hypoglycemia: Glyburide was discontinued during this admission. 
Given recurrent episodes of symptomatic hypoglycemia, patient 
may benefit from slightly looser glucose control goals. She was 
discharged on home dose of 12u glargine qHS which may need to be 
adjusted.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO BID 
2. Aspirin 325 mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Atorvastatin 40 mg PO HS 
5. Docusate Sodium 100 mg PO BID 
hold for loose stools 
6. Duloxetine 30 mg PO BID 
7. Fluocinonide 0.05% Cream 1 Appl TP BID 
8. Fluticasone Propionate NASAL 1 SPRY NU BID 
9. Hydrochlorothiazide 12.5 mg PO DAILY 
10. Hydrocortisone (Rectal) 2.5% Cream ___ID 
11. Hydrocortisone Acetate Suppository ___ID 
12. Glargine 12 Units Bedtime
13. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
14. Omeprazole 20 mg PO DAILY 
15. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO QD PRN pain 
16. Vitamin D 1000 UNIT PO DAILY 
17. GlipiZIDE 5 mg PO DAILY 
18. Maalox/Diphenhydramine/Lidocaine 5 mL PO Q2H:PRN mouth pain 
swish and spit 
19. Nitroglycerin SL 0.3 mg SL PRN chest pain 

 
Discharge Medications:
1. Amlodipine 5 mg PO BID 
2. Aspirin 325 mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Atorvastatin 40 mg PO HS 
5. Docusate Sodium 100 mg PO BID 
6. Duloxetine 30 mg PO BID 
7. Fluocinonide 0.05% Cream 1 Appl TP BID 
8. Fluticasone Propionate NASAL 1 SPRY NU BID 
9. Hydrocortisone (Rectal) 2.5% Cream ___ID 
10. Hydrocortisone Acetate Suppository ___ID 
11. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
12. Omeprazole 20 mg PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 
14. Hydrochlorothiazide 12.5 mg PO DAILY 
15. Maalox/Diphenhydramine/Lidocaine 5 mL PO Q2H:PRN mouth pain 
16. Nitroglycerin SL 0.3 mg SL PRN chest pain 
17. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO QD PRN pain 
18. Glargine 12 Units Bedtime

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hypoglycemia
Acute on chronic renal failure

Secondary:
Type 2 Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for low blood sugars (hypoglycemia) 
and worsening kidney function. You were given sugar through the 
IV and you began eating and your sugars came back to normal. We 
will stop your diabetes medication, glipizide, to help prevent 
episodes of hypoglycemia in the future. It is important that you 
have juice or other sugar containing snacks around in case you 
begin to feel that your sugar is dropping.
Your worsening kidney function was likely caused by dehydration 
and improved back to your baseline with IV fluids. You should be 
sure to keep well hydrated at home to help protect your kidneys.

It was a pleasure taking part in your care and we wish you a 
speedy recovery!
 
Followup Instructions:
___